US06498169B1
Synthesis of 4-(3-Methylthioanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine
1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone (1.40 g) and 3-methylthioaniline (655 mg) were reacted in the same manner as described in Preparation Example 37 to give the title compound.

reactant | 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone | 1.40 g | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C20H24N2O4
reactant | 3-methylthioaniline | 655 mg | CSC=1C=C(N)C=CC1 | C7H9NS
product | 4-(3-Methylthioanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | CSC=1C=C(NC2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC1 | C27H33N3O3S
